US08097620B2
Method 17. Preparation of 2-(5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetic acid
Methyl 5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate. The title compound is prepared by reaction of methyl 3-chloro-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate with sodium methoxide according the procedure described in Bioorg. Med. Chem. Lett., 17, 6206 (2007). Alternatively, the title compound is prepared by reaction of methyl 3-chloro-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate with ammonia in MeOH solution according to Method 8(a).

reactant | Methyl 5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate | OC1=C(C(N(C=2N=NC(=CC21)OC)C)=O)C(=O)OC | C11H11N3O5
reactant | methyl 3-chloro-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate | ClC1=CC2=C(N=N1)N(C(C(=C2O)C(=O)OC)=O)C | C10H8ClN3O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | ammonia | N | H3N
solvent | MeOH | CO | CH4O
product | 2-(5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetic acid | OC1=C(C(N(C=2N=NC(=CC21)OC)C)=O)C(=O)NCC(=O)O | C12H12N4O6
